* Specify power supply – 3.3v operation
vsupply vdd 0 3.3v
vgnd gnd 0 0v
* Specify transient analysis
.tran 0.01ns 5ns
* Dummy control block for SPICE 3
.control
.endc